US04673746
The Friedel-Crafts procedure of Example 24a is repeated with 33.7 g of 2,3-dimethylbenzoyl chloride, 54 g of 2,3-dichloroanisole and 26.7 AlCl3 being reacted to form 2,3-dichloro-4-methoxy-2',3'-dimethylbenzophenone.

reactant | 2,3-dimethylbenzoyl chloride | 33.7 g | CC1=C(C(=O)Cl)C=CC=C1C | C9H9ClO
reactant | 2,3-dichloroanisole | 54 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
product | 2,3-dichloro-4-methoxy-2',3'-dimethylbenzophenone | ClC1=C(C(=O)C2=C(C(=CC=C2)C)C)C=CC(=C1Cl)OC | C16H14Cl2O2
